US04477671
3-Benzyloxy-2-methyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine N-oxide is heated in acetic anhydride according to the method of Example 21 to produce 2-acetoxymethyl-3-benzyloxy-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine.

reactant | 3-Benzyloxy-2-methyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine N-oxide | C(C1=CC=CC=C1)OC=1C(=[N+](C(=CC1)C(CN(C(C)=O)C(C)(C)C)OC(C)=O)[O-])C | C23H30N2O5
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-3-benzyloxy-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine | C(C)(=O)OCC1=NC(=CC=C1OCC1=CC=CC=C1)C(CN(C(C)=O)C(C)(C)C)OC(C)=O | C25H32N2O6
